US07531532B2
2-Norbornaneacetic acid (66 mg) was dissolved in thionyl chloride (0.5 ml) under a nitrogen atmosphere, followed by stirring at 50° C. for 1 hr. The reaction mixture was concentrated under a reduced pressure to provide a crude product of 2-norbornaneacetyl chloride. The crude product of 2-norbornaneacetyl chloride was dissolved in acetonitrile (5 ml) under a nitrogen atmosphere, and then potassium thiocyanate (84 mg) was added thereto at 50° C., followed by stirring at the same temperature for 1 hr. The reaction mixture was cooled down to room temperature, and then 4-(4-amino-2-fluorophenoxy)-2-[(dimethylamino)carbonylamino]pyridine (50 mg) was added thereto, followed by stirring for 30 min. The reaction mixture was partitioned between ethyl acetate and a saturated aqueous solution of sodium hydrogencarbonate. The organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate and brine in this order, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was then purified by silica gel column chromatography (eluent; hexane:ethyl acetate=1:4). Fractions containing the target compound were concentrated to give a residue, to which diethyl ether (5 ml) was added to precipitate crystals. A suspension containing the crystals was diluted with hexane (10 ml). The crystals were filtered off and dried under aeration to provide the titled compound (39,7 mg, 48%) as white crystals.

reactant | 2-Norbornaneacetic acid | 66 mg | C12C(CC(CC1)C2)CC(=O)O | C9H14O2
reactant | thionyl chloride | 0.5 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-norbornaneacetyl chloride | C12C(CC(CC1)C2)CC(=O)Cl | C9H13ClO
